US07645789B2
A mixture of 1-chloro-5-methyl-2,4-dinitro-benzene (11.6 g, 50.0 mmol), DMA (11.9 g, 100 mmol) in DMF (50 mL) was heated at 100° C. for 4 h. The solution was cooled and poured into water. The precipitated red solid was collected by filtration, washed with water, and dried to give (E)-2-(5-chloro-2,4-dinitrophenyl)-N,N-dimethylethenamine (9.84 g, 72%).

reactant | 1-chloro-5-methyl-2,4-dinitro-benzene | 50.0 mmol, 11.6 g | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])[N+](=O)[O-] | C7H5ClN2O4
reactant | DMA | 100 mmol, 11.9 g | CC(=O)N(C)C | C4H9NO
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (E)-2-(5-chloro-2,4-dinitrophenyl)-N,N-dimethylethenamine | 9.84 g, 72% | ClC=1C(=CC(=C(C1)/C=C/N(C)C)[N+](=O)[O-])[N+](=O)[O-] | C10H10ClN3O4
